US09193714B2
(R)-tert-Butyl 3-(difluoromethyl)pyrrolidine-1-carboxylate (0.45 g, 2.03 mmol) in 1,4-dioxane (1 mL) was cooled to 15° C. in an ice bath. HCl (4M in 1,4-dioxane, 1.5 mL, 6.11 mmol) was then added and the resulting solution was stirred at room temperature overnight. The solvent was removed on a rotary evaporator and the residue was triturated with diethyl ether. Diethyl ether was removed under vacuum and solid was dried to afford 0.31 g of (R)-3-(difluoromethyl)pyrrolidine hydrochloride as a grey solid. 1H NMR (400 MHz, DMSO-d6) δ 9.57 (bs, 2H), 6.19 (td, 1H), 3.34 (m, 1H), 3.22-3.06 (m, 3H), 2.82 (m, 1H), 2.05 (m, 1H), 1.85 (m, 1H).

reactant | (R)-tert-Butyl 3-(difluoromethyl)pyrrolidine-1-carboxylate | 2.03 mmol, 0.45 g | FC([C@H]1CN(CC1)C(=O)OC(C)(C)C)F | C10H17F2NO2
reactant | HCl | 6.11 mmol, 4M, 1.5 mL | Cl | ClH
solvent | 1,4-dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | (R)-3-(difluoromethyl)pyrrolidine hydrochloride | 0.31 g | Cl.FC([C@H]1CNCC1)F | InChI=1S/C5H9F2N.ClH/c6-5(7)4-1-2-8-3-4;/h4-5,8H,1-3H2;1H/t4-;/m1./s1
